US07625908B2
N-{(1R)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2-hydroxy-N-methylacetamide
The procedure described in Example 3 was repeated using picolyl chloride hydrochloride and N-[(1R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide to give the title compound in 8% yield; NMR spectrum (DMSO-d6) 1.19 (d, 3H), 2.79 (s, 3H), 3.87-4.26 (m, 3H), 4.38-4.48 (m, 2H), 5.11-5.22 (m, 1H), 5.29 (s, 2H), 7.18-7.25 (m, 2H), 7.32-7.38 (m, 2H), 7.48 (d, 1H), 7.58 (d, 1H), 7.72 (t, 1H), 7.87 (t, 1H), 7.94 (d, 1H), 8.44 (s, 1H), 8.59 (d, 1H), 9.58 (s, 1H); Mass spectrum MH+ 508.3.

reactant | picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
reactant | N-[(1R)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]-2-hydroxy-N-methylacetamide | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)N(C(CO)=O)C | C20H21ClN4O4
product | N-{(1R)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}-2-hydroxy-N-methylacetamide | 8% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@@H](C)N(C(CO)=O)C | C26H26ClN5O4
